US07432291B2
A solution of 4.20 g (23.1 mmol) (4-allyloxy-2-fluoro-phenyl)-methanol in 80 ml dichloro-methane and 0.5 ml DMF was cooled to 0° C. 2.17 ml (3.57 g, 30.0 mmol) thionyl chloride were added slowly and then stirred for 1 h at room temperature. Dichloromethane was distilled off. The residue was taken up in 100 ml ethyl acetate and washed with concentrated sodium carbonate solution. The organic phase was dried and evaporated to give 4.47 g (97%) 1-allyloxy-3-fluoro-4-chloromethyl-benzene as colored oil.

reactant | (4-allyloxy-2-fluoro-phenyl)-methanol | 23.1 mmol, 4.20 g | C(C=C)OC1=CC(=C(C=C1)CO)F | C10H11FO2
reactant | thionyl chloride | 30.0 mmol, 2.17 ml, 3.57 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloro-methane | 80 ml | ClCCl | CH2Cl2
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 1-allyloxy-3-fluoro-4-chloromethyl-benzene | 4.47 g, 97% | C(C=C)OC1=CC(=C(C=C1)CCl)F | C10H10ClFO
